US07205296B2
To a suspension of 6-fluoro-7-(methylamino)-3-(4-nitrophenyl)-2,3-dihydrobenzo[e][1,3]oxazin-4-one (0.108 g, 0.33 mmol) in ethanol (6 mL) under Ar was added 10% Pd/C (0.04 g, 0.03 mmol Pd). The mixture was hydrogenated under 1 atm H2 overnight, filtered through Celite and concentrated to give 0.096 g (98%) of 3-(4-aminophenyl)-6-fluoro-7-(methylamino)-2,3-dihydrobenzo[e][1,3]oxazin-4-one. RP-HPLC: 1.37 min; ES-MS (M+H)+=288.0; 1H-NMR (MeOH-d4) δ (ppm): 2.8 (s, 3 H), 5.5 (s, 2 H), 6.2 (d, 1 H), 7.2 (d, 2 H), 7.3 (d, 2 H), 7.4 (d, 1 H).

reactant | 6-fluoro-7-(methylamino)-3-(4-nitrophenyl)-2,3-dihydrobenzo[e][1,3]oxazin-4-one | 0.33 mmol, 0.108 g | FC=1C(=CC2=C(C(N(CO2)C2=CC=C(C=C2)[N+](=O)[O-])=O)C1)NC | C15H12FN3O4
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.03 mmol, 0.04 g | [Pd] | Pd
product | 3-(4-aminophenyl)-6-fluoro-7-(methylamino)-2,3-dihydrobenzo[e][1,3]oxazin-4-one | 0.096 g, 98% | NC1=CC=C(C=C1)N1COC2=C(C1=O)C=C(C(=C2)NC)F | C15H14FN3O2
